US07320973B2
(S)-3-Hydroxy-1-(4-pyrrolidinophenethyl)pyrrolidine (6.30 g, 23.4 mmol) was dissolved in 100 ml of dichloromethane. Diisopropylethylamine (5.28 ml, 30.0 mmol) and methanesulfonyl chloride (2.34 ml, 30.0 mmol) were added to the obtained solution at 0° C. and they were stirred for 4 hours. The reaction mixture was distributed into 5% aqueous sodium hydrogencarbonate solution and dichloromethane. The organic layer was dried and the solvent was evaporated under reduced pressure. The residue was subjected to the silica gel column chromatography. After the elution with dichloromethane and methanol (10:1), suitable fractions were collected and the solvent was evaporated under reduced pressure to obtain (S)-3-methanesulfonyloxy-1-(4-pyrrolidinophenethyl)pyrrolidine in the form of a light yellow oily substance (7.50 g, 49%).

reactant | (S)-3-Hydroxy-1-(4-pyrrolidinophenethyl)pyrrolidine | 23.4 mmol, 6.30 g | O[C@@H]1CN(CC1)CCC1=CC=C(C=C1)N1CCCC1 | C16H24N2O
reactant | Diisopropylethylamine | 30.0 mmol, 5.28 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 30.0 mmol, 2.34 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (S)-3-methanesulfonyloxy-1-(4-pyrrolidinophenethyl)pyrrolidine | CS(=O)(=O)O[C@@H]1CN(CC1)CCC1=CC=C(C=C1)N1CCCC1 | C17H26N2O3S
